US09328118B2
Potassium carbonate (442 mg) and methyl iodide (0.17 mL) were added to a solution of 2,6-dichloro-8-methyl-7H-purine (500 mg) in THF (5 mL) under ice-cooling, and the mixture was stirred at room temperature for 5 hours. After the reaction mixture was ice-cooled, water was added thereto, extraction thereof was performed using EtOAc, and the extract was washed with water and saturated brine. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=9:1 to 8:2), whereby 2,6-dichloro-8,9-dimethyl-9H-purine (310 mg) was obtained as a white solid.

reactant | Potassium carbonate | 442 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.17 mL | CI | CH3I
reactant | 2,6-dichloro-8-methyl-7H-purine | 500 mg | ClC1=NC(=C2NC(=NC2=N1)C)Cl | C6H4Cl2N4
reactant | water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2,6-dichloro-8,9-dimethyl-9H-purine | 310 mg | ClC1=NC(=C2N=C(N(C2=N1)C)C)Cl | C7H6Cl2N4
